### PR TITLE
feat: BitVec.getMsbD in bv_decide

### LINKED ISSUE #5983: bv_decide does not support `getMsbD`
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`bv_decide` does not yet support `getMsbD` which causes it to throw even for simple test cases an error:

```lean
example (x : BitVec 2): (x.getMsbD 0) = x.msb := by
  bv_decide
```

```
The prover found a potentially spurious counterexample:
- It abstracted the following unsupported expressions as opaque variables: [ofBool (x.getMsbD 0)]
Consider the following assignment:
ofBool (x.getMsbD 0) = 0x1#1
x = 0x1#2
```

### Versions

Lean 4.15.0-nightly-2024-11-04
Target: arm64-apple-darwin23.6.0 macOS

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by hargoniX**
Closes #5983.

### CODE REVIEW

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 1]
```diff
@@ -122,6 +122,14 @@ attribute [bv_normalize] Bool.cond_eq_if
 attribute [bv_normalize] BitVec.abs_eq
 attribute [bv_normalize] BitVec.twoPow_eq
 
+@[bv_normalize]
+theorem BitVec.getElem_eq_getLsbD (a : BitVec w) (i : Nat) (h : i < w) :
+    a[i]'h = a.getLsbD i := by
+  simp [BitVec.getLsbD_eq_getElem?_getD, BitVec.getElem?_eq, h]
+
+-- The side condition about gets resolved if i and w are constant.
```
Comment (TwoFX) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:130]: This comment seems to be missing some words?

File: tests/lean/run/bv_bitwise.lean [hunk 2]
```diff
@@ -38,3 +38,5 @@ theorem bitwise_unit_9 (x y : BitVec 32) :
     BitVec.ofBool (x.getLsbD 0 ^^ y.getLsbD 0) = BitVec.ofBool ((x ^^^ y).getLsbD 0) := by
   bv_decide
 
+theorem bitwise_unit_10 (x : BitVec 2): (x.getMsbD 0) = x.msb := by
```
Comment (TwoFX) [inline tests/lean/run/bv_bitwise.lean:41]:
```suggestion
theorem bitwise_unit_10 (x : BitVec 2) : (x.getMsbD 0) = x.msb := by
```
